US09162953B2
Preparation of 1-(4-methoxyphenyl)-1H-pyrazole
Following General Procedure A (90° C., 30 hours), 1H-pyrazole (205 mg, 3.0 mmol) is coupled with 1-iodo-4-methoxybenzene (468 mg, 2.0 mmol). The crude brown oil is purified by flash chromatography on silica gel (eluent: dichloromethane/hexanes=50/50) to provide 340 mg (98% isolated yield) of the desired product as a white solid.

reactant | 1H-pyrazole | 3.0 mmol, 205 mg | N1N=CC=C1 | C3H4N2
reactant | 1-iodo-4-methoxybenzene | 2.0 mmol, 468 mg | IC1=CC=C(C=C1)OC | C7H7IO
product | 1-(4-methoxyphenyl)-1H-pyrazole | COC1=CC=C(C=C1)N1N=CC=C1 | C10H10N2O
